US05707989
140 ml of benzylbromide are added dropwise to a mixture of 61 g of trans-4-amino-cyclohexanol, 350 ml of water, 350 ml of ethanol and 110 g of potassium carbonate. The mixture is then heated to boiling for 1 hour, cooled and the crystalline residue is suction filtered. The residue is taken up in 1.51 of cyclohexane, the mixture is boiled, cooled and suction filtered. Washing with cyclohexane and drying in vacuo yields 108 g (92% of theory) of trans-4-dibenzylamino-cyclohexanol.

reactant | benzylbromide | 140 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | trans-4-amino-cyclohexanol | 61 g | N[C@@H]1CC[C@H](CC1)O | C6H13NO
reactant | water | 350 ml | O | H2O
reactant | potassium carbonate | 110 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 350 ml | C(C)O | C2H6O
product | trans-4-dibenzylamino-cyclohexanol | 108 g, 92% | C(C1=CC=CC=C1)N([C@@H]1CC[C@H](CC1)O)CC1=CC=CC=C1 | C20H25NO
